US06329370B1
6-Methoxy-5-(5-phenyl-pent-1-ynyl)-2H-phthalazin-1-one
A mixture under N2 of trifluoro-methanesulfonic acid 6-methoxy-1-oxo-1,2-dihydro-phthalazin-5-yl ester (2 g, 6.16 mmoles), prepared as described in example 59, pent-4-ynyl-benzene (1.33 g, 9.24 mmoles), bis(triphenylphosphine)PdCl2 (216 mg, 0.308 mmole) and triethylamine (3.42 ml, 24.64 mmoles) in DMF (40 ml) was heated to 90° C. for 3 hours, then poured into water (200 ml), filtered and the precipitate was washed with water to give 1.28 g of the title compound (yield: 65%).

reactant | trifluoro-methanesulfonic acid 6-methoxy-1-oxo-1,2-dihydro-phthalazin-5-yl ester | 6.16 mmoles, 2 g | COC=1C(=C2C=NNC(C2=CC1)=O)OS(=O)(=O)C(F)(F)F | C10H7F3N2O5S
reactant | pent-4-ynyl-benzene | 9.24 mmoles, 1.33 g | C(CCC#C)C1=CC=CC=C1 | C11H12
reactant | triethylamine | 24.64 mmoles, 3.42 ml | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 6-Methoxy-5-(5-phenyl-pent-1-ynyl)-2H-phthalazin-1-one | 1.28 g, yield: 65% | COC=1C(=C2C=NNC(C2=CC1)=O)C#CCCCC1=CC=CC=C1 | C20H18N2O2
